### PR TITLE
[Merged by Bors] - refactor: Let `positivity` handle `ENNReal`-valued `ofNat`

### PR DESCRIPTION
**Pull request by YaelDillies**
The meta code was looking for `StrictOrderedSemiring` instead of the weaker `OrderedSemiring` + `Nontrivial`, which is enough.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENNReal/Basic.lean [hunk 1]
```diff
@@ -710,8 +710,28 @@ def evalENNRealOfNNReal : PositivityExt where eval {u α} _zα _pα e := do
     | _ => pure .none
   | _, _, _ => throwError "not ENNReal.ofNNReal"
 
+private lemma ennreal_one_pos : (0 : ℝ≥0∞) < 1 := zero_lt_one
+private lemma ofNat_pos {n : ℕ} [n.AtLeastTwo] : 0 < (no_index OfNat.ofNat n : ℝ≥0∞) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:714]: Do you need the `no_index` if you're not using it with `simp`?

File: Mathlib/Data/ENNReal/Basic.lean [hunk 2]
```diff
@@ -710,8 +710,28 @@ def evalENNRealOfNNReal : PositivityExt where eval {u α} _zα _pα e := do
...
+    catch _ => do
+      match n with
+      | ~q(1) => return .positive (q(ennreal_one_pos) : Expr)
+      | _ => throwError "not positive"
+  | _ => throwError "not `ENNReal`-valued `ofNat`"
+
 end Mathlib.Meta.Positivity
 
+example : (0 : ℝ≥0∞) < 1 := by positivity
+example : (0 : ℝ≥0∞) < 2 := by positivity
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:733]: I might add a test for \le or \ne as well, but I'll leave it to you whether that's useful

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Data/ENNReal/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Basic.lean:733]: No indeed, positivity already takes care of that

File: Mathlib/Data/ENNReal/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Basic.lean:714]: Copy pasta :)

**Comment by hrmacbeth** [comment]
Rather than having a special positivity extension, I think we should fix the existing positivity extension for numerals to handle this use case.  Note that currently
```lean
import Mathlib

example : 0 < (2:ENNReal) := by positivity -- fails
example : 0 ≤ (2:ENNReal) := by positivity -- works
```
The reason is that in the [tactic code](https://github.com/leanprover-community/mathlib4/blob/655d653bfd6eb4968829ce8e2b5e4ed0419f6f05/Mathlib/Tactic/Positivity/Core.lean#L185-L196) proving `≤` requires `OrderedSemiring` (which holds for ENNReal) but proving `<` requires `StrictOrderedSemiring` (which does not hold for ENNReal).

@YaelDillies I am sure you are very capable of finding or inventing a typeclass which (i) holds for ENNReal and (ii) implies that positive numerals are positive.

**Comment by YaelDillies** [comment]
Well, that was easy. For some reason I remembered that `Nat.cast_pos` had to use `StrictOrderedSemiring`, but clearly I was wrong *and* short-memoried since no one else than me generalised `Nat.cast_pos` back in https://github.com/leanprover-community/mathlib3/pull/16172.

File: Mathlib/Data/ENNReal/Basic.lean [hunk 3]
```diff
@@ -685,33 +685,6 @@ end OrdConnected
...
-  | 0, ~q(ℝ≥0∞), ~q(ENNReal.ofNNReal $a) =>
-    let ra ← core q(inferInstance) q(inferInstance) a
-    assertInstancesCommute
-    match ra with
-    | .positive pa => pure <| .positive q(ENNReal.coe_pos.mpr $pa)
-    | _ => pure .none
-  | _, _, _ => throwError "not ENNReal.ofNNReal"
-
-end Mathlib.Meta.Positivity
-
```
Comment (hrmacbeth) [inline Mathlib/Data/ENNReal/Basic.lean:714]: Is it intentional that you're deleting these positivity extensions?

Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Basic.lean:714]: 🤦 I am incredibly short-sighted today

File: test/positivity.lean [hunk 4]
```diff
@@ -23,6 +23,9 @@ example : 0 ≤ 3 := by positivity
 
 example : 0 < 3 := by positivity
 
+example : (0 : ℝ≥0∞) < 1 := by positivity
+example : (0 : ℝ≥0∞) < 2 := by positivity
```
Comment (hrmacbeth) [inline test/positivity.lean:27]: Could you please add a test like this?
```
example : (0 : ℝ≥0∞) < 2 + 2 := by positivity
```
(since the `norm_num` positivity extension should handle that too.)

**Comment by hrmacbeth** [comment]
bors d+

File: test/positivity.lean (hunk 4 above)
Comment (YaelDillies) [reply test/positivity.lean:27]: It doesn't work. I suspect it's because `norm_num` doesn't know about truncated subtraction.

Is your "should" meant as in "it should work" or as in "you should make it work"? I think it's pretty out of scope for this PR regardless of your answer.

In fact, my motivation here is to have `positivity` prove that the L2 norm of a nonzero function is positive, and there I really don't have any truncated subtraction

**Comment by YaelDillies** [comment]
I will try to make the `3 - 2` example work in another PR. Let's keep this one simple.

**Comment by YaelDillies** [comment]
bors merge
